US06306889B1
Preparation of 9-aminomethylxanthene
To a stirred suspension of sodium boronhydride (1.89 g, 50 mmol) and 9-xanthencarboxamide (2.25 g, 10 mmol) in dioxane (20 mL) was added acetic acid (3.0 g, 50 mmol) in dioxane (10 mL) over a period of 10 minutes at 10° C.; the reaction mixture was stirred at reflux for 2 hours. The reaction mixture was concentrated to dryness in vacuo, excess reagent was decomposed with water and the solution extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulphate. The chloroform layer was evaporated in vacuo and the residue was purified by silica gel column chromatography (ethylacetate:methanol, 9:1 as eluent) to give a white solid (1.6 g, 7.6 mmol) in 76.2% yield.

reactant | sodium | [Na] | Na
reactant | 9-xanthencarboxamide | 10 mmol, 2.25 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)N | C14H11NO2
reactant | acetic acid | 50 mmol, 3.0 g | C(C)(=O)O | C2H4O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 9-aminomethylxanthene | 7.6 mmol, 1.6 g, 76.2% yield | NCC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H13NO
